US08431713B2
7-chlorothieno[3,2-b]pyridine (1.0 g, 5.9 mmol) in EtOH (15 mL) was treated with sodium hydrogen sulfide dihydrate (3.26 g, 35.4 mmol). The solution was heated at 90° C. overnight. An additional amount of sodium hydrogen sulfide dihydrate (3.26 g, 35.4 mmol) was added and the reaction stirred an additional 20 hours at reflux. The solution was cooled to ambient temperature and diluted with water (100 mL) to dissolve the solids. The solution was cooled to 0° C. and concentrated hydrochloric acid solution was added slowly to adjust the pH to 1. The solution was then filtered and the solid was dried under high vacuum to provide thieno[3,2-b]pyridine-7-thiol (0.73 g, 74% yield) as a yellow solid.

reactant | 7-chlorothieno[3,2-b]pyridine | 5.9 mmol, 1.0 g | ClC1=C2C(=NC=C1)C=CS2 | C7H4ClNS
reactant | sodium hydrogen sulfide dihydrate | 35.4 mmol, 3.26 g | O.O.S.[Na]
reactant | sodium hydrogen sulfide dihydrate | 35.4 mmol, 3.26 g | O.O.S.[Na]
reactant | hydrochloric acid | Cl | ClH
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
product | thieno[3,2-b]pyridine-7-thiol | 0.73 g, 74% yield | S1C=CC2=NC=CC(=C21)S | C7H5NS2
